US07683056B2
Ethyl (3R)-5-oxo4-(phenylmethyl)-3-morpholinecarboxylate (D45)
The title compound was prepared according to the procedure described by H. H. Otto, Helvetica Chimica Acta, 2004, 87, 90 using (3R)-5-oxo-4-(phenylmethyl) -3-morpholinecarboxylic acid (D44, 3.13 g, 13.33 mmol) in EtOH (30 mL), cooling in an ice bath before adding Thionyl Chloride (1.46 mL) dropwise, and then stirring at R.T. for 6 hours. Added more thionyl chloride (1 mL) and stirring at R.T. overnight. Added more thionyl chloride (1 mL) and stirred for 4 hours, added further thionyl chloride (0.5 mL) and stirred overnight again. Added thionyl chloride (0.2 mL) and left stirring for 5 hours. Solvent evaporated to afford the title compound as an orange oil in quantative yield.

reactant | (3R)-5-oxo-4-(phenylmethyl) -3-morpholinecarboxylic acid | 13.33 mmol, 3.13 g | O=C1COC[C@@H](N1CC1=CC=CC=C1)C(=O)O | C12H13NO4
reactant | Thionyl Chloride | 1.46 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOH | 30 mL | CCO | C2H6O
product | Ethyl (3R)-5-oxo4-(phenylmethyl)-3-morpholinecarboxylate | O=C1COC[C@@H](N1CC1=CC=CC=C1)C(=O)OCC | C14H17NO4
